US07429605B2
3-(4-Chloro-phenyl)-5-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine
A solution of 85 mg (0.39 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)phenol in 4.0 ml N,N-dimethylformamide was treated at 0° C. with 16 mg (0.39 mmol) of 60% sodium hydride and stirred at 0° C. for 30 min. Then 100 mg (0.39 mmol) 3-Chloromethyl-5-(4-chloro-phenyl)-pyridine were added and stirred continued at r. t. over night. After addition of 8 ml water, the precipitate was isolated, washed thoroughly with water and n-heptane. The residue was dried at 40° C. to give 108 mg (67%) of the title compound as light brown powder.

reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)phenol | 0.39 mmol, 85 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | sodium hydride | 0.39 mmol, 16 mg | [H-].[Na+]
reactant | 3-Chloromethyl-5-(4-chloro-phenyl)-pyridine | 0.39 mmol, 100 mg | ClCC=1C=NC=C(C1)C1=CC=C(C=C1)Cl | C12H9Cl2N
reactant | water | 8 ml | O | H2O
solvent | N,N-dimethylformamide | 4.0 ml | CN(C=O)C | C3H7NO
product | 3-(4-Chloro-phenyl)-5-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-pyridine | 108 mg, 67% | ClC1=CC=C(C=C1)C=1C=NC=C(C1)COC1=CC=C(C=C1)CCCCN1N=NC=C1 | C24H23ClN4O
